* CMOS Inverter VTC - Ngspice (Windows)
VDD vdd 0 DC 3.3
Vin in 0 DC 0

* Simple Level 1 models (no external files needed)
.model nmos nmos (vto=0.7 kp=120e-6)
.model pmos pmos (vto=-0.7 kp=40e-6)

M1 out in 0 0 nmos W=1u L=0.5u
M2 out in vdd vdd pmos W=2u L=0.5u

* DC sweep
.dc Vin 0 3.3 0.01

.control
  run
  setplot dc1
  plot v(out)
  wrdata vtc_data.txt v(in) v(out)
.endc

.end